US04216232
As Example 14 using 4-acetyl biphenyl as the starting material. 4-(p-phenyl-phenyl)-2-pentanone was obtained as a colourless solid, m.p. 67° C. from ethanol/pentane.

reactant | 4-acetyl biphenyl | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
reactant | ethanol pentane | C(C)O.CCCCC
product | 4-(p-phenyl-phenyl)-2-pentanone | C1(=CC=CC=C1)C1=CC=C(C=C1)C(CC(C)=O)C | C17H18O
